US09121110B2
2-chlorotrityl chloride resin (3.00 g, 4.5 mmol) was swelled in DCM. 4-Acetoxy-3-nitro-benzoic acid (2.53 g, 11.25 mmol) was dissolved in DMF (7.5 ml) and triethylamine (1.56 ml, 11.25 ml) mixed with the drained resin. The mixture was placed on a shaker for 18 h at rt. Followed by a careful wash with DMF (3×2 min) and methanol (3×2 min). The resin was treated with a solution of 2-phanyl-ethyl amine (2M, 10 ml) in dichloromethane for 1 h at rt. and for 3 h at rt. then washed with dichloromethane (3×2 min) and dried. 36.1 mg resin was added 1% TFA in DCM 10 min filtered, added hexane and evaporated to give 4-hydroxy-3-nitro-benzoic acid (7.8 mg), which correspond to a loading of 1.18 mmol/g.

reactant | 2-chlorotrityl chloride resin | 4.5 mmol, 3.00 g | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | 4-Acetoxy-3-nitro-benzoic acid | 11.25 mmol, 2.53 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | triethylamine | 1.56 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 4-hydroxy-3-nitro-benzoic acid | 7.8 mg | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
